US08008307B2
Step e: [(1R,2S,4R)-4-({6-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]pyrimidin-4-yl}amino)-2-hydroxycyclopentyl]methyl sulfamate (Compound I-25)
To a solution of tert-butyl ({[(1R,2S,4R)-4-({6-[(1S)-2,3-dihydro-1H-inden-1-ylamino]pyrimidin-4-yl}amino)-2-hydroxycyclopentyl]methoxy}sulfonyl)carbamate (50.0 mg, 0.0962 mmol) in DCM (2.00 mL) was added trifluoroacetic acid (0.500 mL, 6.49 mmol), and the mixture was stirred for 30 min. The mixture was concentrated in vacuo and the residue was purified via silica gel chromatography eluting with 10% MeOH in DCM, and the product was dissolved in MeOH and treated with solid NaHCO3. The suspension was filtered and the filtrate was purified via silica gel chromatography eluting with 10% MeOH/DCM to afford the title compound as an amorphous solid (12.0 mg, 30%). 1H NMR (CD3OD, 400 MHz) δ: 7.94 (s, 1H), 7.29-7.12 (m, 4H), 5.53 (s, 1H), 5.32 (bs, 1H), 4.23-4.08 (m, 4H), 3.06-2.96 (m, 1H), 2.93-2.82 (m, 1H), 2.61-2.50 (m, 1H), 2.45-2.34 (m, 1H), 2.26-2.15 (m, 1H), 2.08-1.98 (m, 1H), 1.95-1.78 (m, 2H), 1.37-1.25 (m, 2H) ppm. LC/MS: Rt=1.29 min, ES+ 420. (AA standard).

reactant | tert-butyl ({[(1R,2S,4R)-4-({6-[(1S)-2,3-dihydro-1H-inden-1-ylamino]pyrimidin-4-yl}amino)-2-hydroxycyclopentyl]methoxy}sulfonyl)carbamate | 0.0962 mmol, 50.0 mg | [C@@H]1(CCC2=CC=CC=C12)NC1=CC(=NC=N1)N[C@H]1C[C@@H]([C@H](C1)COS(=O)(=O)NC(OC(C)(C)C)=O)O | C24H33N5O6S
reactant | trifluoroacetic acid | 6.49 mmol, 0.500 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 2.00 mL | C(Cl)Cl | CH2Cl2
product | [(1R,2S,4R)-4-({6-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]pyrimidin-4-yl}amino)-2-hydroxycyclopentyl]methyl sulfamate | 12.0 mg, 30% | S(N)(OC[C@@H]1[C@H](C[C@@H](C1)NC1=NC=NC(=C1)N[C@H]1CCC2=CC=CC=C12)O)(=O)=O | C19H25N5O4S
